US08053438B2
(RAC)-CIS-(1H-BENZO[D]IMIDAZOL-2-YL)(4-(3-(3-HYDROXYCYCLOHEXYL)PYRAZIN-2-YLOXY)PHENYL)METHANONE
A mixture of (rac)-cis-3-(3-fluoropyrazin-2-yl)cyclohexanol (140 mg, 0.713 mmol), (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone (340 mg, 1.427 mmol), and cesium carbonate (465 mg, 1.427 mmol) in NMP (1.8 ml) was heated in a Biotage™ microwave reactor at 180° C. for 45 min. The mixture was partitioned between H2O(10 ml) and CH2Cl2 (20 ml), the layers were separated, and the aqueous layer was extracted with CH2Cl2 (3×20 ml). The combined organic layers were dried (MgSO4), concentrated under reduced pressure, and the resulting brown oil was purified by reversed phase HPLC (Gilson Gemini-NX 10u C18 110A, 100×50.0 mm, 10% to 95% H2O/MeCN, 0.1% TFA). The product containing fractions were combined, neutralized by the addition of solid Na2CO3, and extracted with CH2Cl2 (3×20 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure to deliver (rac)-cis-(1H-benzo[d]imidazol-2-yl)(4-(3-(3-hydroxycyclohexyl)pyrazin-2-yloxy)phenyl)methanone as a brown foam. MS (ESI, pos. ion) m/z: 415.0 (M+1). IC50 (uM) +++++.

reactant | (rac)-cis-3-(3-fluoropyrazin-2-yl)cyclohexanol | 0.713 mmol, 140 mg | FC=1C(=NC=CN1)[C@H]1C[C@H](CCC1)O | C10H13FN2O
reactant | (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone | 1.427 mmol, 340 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
reactant | cesium carbonate | 1.427 mmol, 465 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 1.8 ml | CN1CCCC1=O | C5H9NO
product | (RAC)-CIS-(1H-BENZO[D]IMIDAZOL-2-YL)(4-(3-(3-HYDROXYCYCLOHEXYL)PYRAZIN-2-YLOXY)PHENYL)METHANONE | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2[C@@H]2C[C@@H](CCC2)O | C24H22N4O3
